US06432993B1
To a suspension of sodium hydride (55 wt. %, 0.87 g) in N,N-dimethylformamide (20 ml) was added methylhydroquinone (1.24 g). The mixture was stirred at ambient temperature for 15 minutes. To this mixture was added t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.87 g)in small portions and stirred at 120° C. for 2 hours. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=3/1 as the eluant to afford a mixture (2.20 g) of t-butyl N-[5-(4-hydroxy-2-methylphenoxy)-2-nitrophenyl]-N-methylcarbamate and t-butyl N-[5-(4-hydroxy-3-methylphenoxy)-2-nitrophenyl]-N-methylcarbamate. A mixture of a solution of the above product and palladium on carbon (10%, 0.21 g) was vigorously stirred at ambient temperature under hydrogen atmosphere for 2 hours. At the end of this time the catalyst was removed by filtration and the filtrate was concentrated to give the title compound (1.88 g).

reactant | sodium hydride | 0.87 g | [H-].[Na+]
reactant | methylhydroquinone | 1.24 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.87 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-butyl N-[5-(4-hydroxy-2-methylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 2.20 g | OC1=CC(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1)C | C19H22N2O6
